US06414144B1
E. (2S)-2-Methyl-2,3,8,9,10,10a-Hexahydro-7bH-Cyclopenta[b][1,4]Diazepino-[6,7,1-hi]Indole-1,4-Dione
A solution of (2S)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoic acid (6.1 mmol, 1.6 g) was dissolved in acetic acid (50 mL) and heated to reflux for 18 h. The reaction was allowed to cool to room temperature and was concentrated to dryness. The crude material was purified by flash column chromatography (silica gel; 1:1 ethyl acetate-hexanes) to provide two diastereomers: less polar product (0.88 mmol, 0.23 g, 14%) and more polar product (0.18 mmol, 45 mg, 3%). The mixed fractions were also collected to provide another 3.9 mmol (1.0 g, 64%) of material.

reactant | (2S)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoic acid | 6.1 mmol, 1.6 g | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)O)C | C15H18N2O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | (2S)-2-Methyl-2,3,8,9,10,10a-Hexahydro-7bH-Cyclopenta[b][1,4]Diazepino-[6,7,1-hi]Indole-1,4-Dione | 3.9 mmol, 1.0 g, 64% | C[C@H]1C(N2C3C(C4=CC=CC(=C24)C(N1)=O)CCC3)=O | C15H16N2O2
